US03969419
3-(2-Fluoro-4-biphenylyl)-1-butyl benzoate by method C
Using a procedure analogous to that described in Example 3, 5.85 gm (67% of theory) of the ester of the formula ##EQU28## having a boiling point of 181°-185°C at 0.05 mm Hg were obtained by refluxing a mixture consisting of 6.11 gm (0.025 mol) of 3-(2-fluoro-4-biphenylyl)-1-butanol, 6.20 gm (0.051 mol) of benzoic acid, 0.5 gm of p-toluene-sulfonic acid and 40 ml of toluene until no more water separated out.

reactant | 3-(2-fluoro-4-biphenylyl)-1-butanol | 0.025 mol, 6.11 gm | FC1=C(C=CC(=C1)C(CCO)C)C1=CC=CC=C1 | C16H17FO
reactant | benzoic acid | 0.051 mol, 6.20 gm | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | p-toluene-sulfonic acid | 0.5 gm | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 3-(2-Fluoro-4-biphenylyl)-1-butyl benzoate | C(C1=CC=CC=C1)(=O)OCCC(C)C1=CC(=C(C=C1)C1=CC=CC=C1)F | C23H21FO2
